US07531532B2
4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide
4-(2-Fluoro-4-nitrophenoxy)pyridin-2-ylamine (60 mg) was dissolved in tetrahydrofuran (3 ml) under a nitrogen atmosphere. Triethylamine (0.101 ml) and phenyl chloroformate (0.0908 ml) were added thereto while cooling in an ice water bath, followed by warming to room temperature and stirring for 25 min. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (30 ml), water (30 ml), brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, N,N-dimethylformamide (3 ml) was added thereto. Then an 1.0 M solution of 1-[2-(azetidin-1-yl)ethyl]piperazine trihydrochloride in methanol (0.819 ml) and triethylamine (0.343 ml) were added to the mixture, followed by stirring for 4 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of ammonium chloride (30 ml). The organic layer was washed with a saturated aqueous solution of ammonium chloride (30 ml), water (30 ml), and brine (30 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate, then ethyl acetate:methanol=9:1). Fractions containing the target compound were concentrated to provide a crude product of the titled compound (114 mg) as a pale yellow oil.

reactant | 4-(2-Fluoro-4-nitrophenoxy)pyridin-2-ylamine | 60 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | phenyl chloroformate | 0.0908 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1-[2-(azetidin-1-yl)ethyl]piperazine trihydrochloride | Cl.Cl.Cl.N1(CCC1)CCN1CCNCC1
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.819 ml | CO | CH4O
solvent | triethylamine | 0.343 ml | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 0.101 ml | C(C)N(CC)CC | C6H15N
product | 4-[2-(Azetidin-1-yl)ethyl]piperazine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 114 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)CCN2CCC2)C=CC(=C1)[N+](=O)[O-] | C21H25FN6O4
